* AVE ELECTRON EQUIVALENT CIRCUIT — DESIGN ARTIFACT / HYPOTHESIS-CLASS
* ====================================================================
* DO-NOT-MERGE model definition for the round-2b ("B") electron-lock test.
* This is the FROZEN model B WILL simulate, NOT a validated electron model
* and NOT a result. It formalizes the topology walked in
*   research/2026-07-07_electron-lock_design-note.md  (PR #568)
* into a netlist, in the Vol 9 device-datasheet register.
*
* See research/2026-07-07_electron-equivalent-circuit.md for the schematic,
* component table, physical-mapping table, and the parametric-coupling fork.
*
* Reference base cell: ave_vacuum_cell.lib (AVE_VACUUM_CELL universal cell).
*
* ngspice-46 IDIOMS (inherited from ave_vacuum_cell.lib, empirical-driver Rule 10):
*   - nonlinear cap  -> charge element  C... Q={expr}   (NOT B...Q=)
*   - nonlinear ind  -> flux element     L... Flux={expr} (NOT idt())
*   - min(...,0.9999) clamps the kernel argument below 1 for sqrt stability.
* Idioms parse + DC-converge (probed 2026-07-07 before commit).
*
* CONSTANTS (canonical source stated PER SYMBOL - see the 2026-08-03 dead-cite
*   repair note below; this header formerly read "defaults from
*   ave.core.constants", which is FALSE for I_MAX.  A driver SHOULD substitute
*   the live values rather than trust these literals - FLAG per
*   ave_vacuum_cell.lib FLAG-1 value-drift warning; these are the same
*   canonical numbers):
*     V_SNAP  = 510998.95 V     (m_e c^2 / e)          A1 metric-varactor knee
*                               -> ave.core.constants.V_SNAP
*     V_YIELD = 43651.85 V      (sqrt(alpha)*V_SNAP)   T2 yield wall
*                               -> ave.core.constants.V_YIELD
*     I_MAX   = 124.384 A       (xi_topo * c)          inductor current ceiling
*                               -> ave.core.fdtd_3d.I_MAX_MU  (NOT constants.py)
*   L0/C0 default to the SCALED tank values (1nH/1pF) for parse/DC-converge; a
*   driver passes L0=L_CELL, C0=C_CELL for the physical run.
*
* DEAD-CITE REPAIR (2026-08-03, imax-mechanical lane).  Same defect class as
*   the one repaired in ave_vacuum_cell.lib, which this file .INCLUDEs below
*   (see the ".INCLUDE ave_vacuum_cell.lib" directive); found by the two-method
*   sweep of that repair, disclosed rather than absorbed silently -- the
*   included lib's header was repaired while this INCLUDING lib's own header
*   still carried the same false attribution.
*   ave.core.constants.I_MAX DOES NOT EXIST
*   and never has.  Two-method verified at origin/main 66fc7e69:
*   hasattr(ave.core.constants, "I_MAX") is False, and grep for I_MAX in
*   src/ave/core/constants.py exits 1 (no match).  The false attribution this
*   header formerly carried, quoted verbatim (Rule 12):
*     "* CONSTANTS (defaults from ave.core.constants; a driver SHOULD substitute the"
*     "*     I_MAX   = 124.384 A       (xi_topo * c)          inductor current ceiling"
*   The LIVE symbol is ave.core.fdtd_3d.I_MAX_MU (src/ave/core/fdtd_3d.py:69):
*     I_MAX_MU: float = XI_TOPO * C_0   # ~= 124.384 A - mu-grade circulation
*                                       #    threshold
*   i.e. the mu-grade threshold lives in the ENGINE MODULE, not the constants
*   module.  V_SNAP and V_YIELD above ARE in ave.core.constants; only the
*   I_MAX row was dead.  Nothing is minted in constants.py by this repair.
*   ! THE VALUE 124.384 A SITS ON AN OPEN FORK.  Which physical current
*   ceiling the Axiom-4 mu-kernel denominator should carry is Grant's A4
*   ruling and is STILL OPEN (research/2026-07-10_operator-typing-pass_result.md
*   :112, verbatim: "Grant's physical ruling - still OPEN.").  A rival sense
*   reads it as the DISPLACEMENT ceiling V_yield/Z_0 = 115.870 A, which the
*   corpus also calls I_max (manuscript/ave-kb/common/operators.md:145,
*   "the FPB slew rating, $I_{max}\simeq116$ A").  The two differ by exactly
*   4*pi*sqrt(alpha) = 1.073476, i.e. ~15% in the QUADRATIC kernel argument
*   at a FIXED numerator convention.  Three-sense map + hazard box:
*   manuscript/ave-kb/common/theorem-thesaurus.md section 6, the I_max row.
*   This .lib keeps 124.384 A (no value change); only the cite is repaired.
*   This block is COMMENT-ONLY: no .param, .subckt or element line is touched.
* ====================================================================

.INCLUDE ave_vacuum_cell.lib

* -----------------------------------------------------------------
* AVE_ELECTRON_EQUIVALENT — the frozen round-2b electron-lock model
* -----------------------------------------------------------------
* PORTS:
*   ND  = d-axis "2" tank node  (Cosserat inductive quadrature; the winding
*         that rings/forms)
*   NQ  = q-axis "3" tank node  (V-sector capacitive quadrature; the EMPTY one,
*         the fill target)
*   A1B = A1 mass-bias node     (the DC operating point = the mass; a driver
*         pins this at V_A1 = sqrt(alpha)*V_SNAP = V_YIELD ~ 43.65 kV, the
*         sub-saturated static confinement bias)
*
* SECTOR DISCIPLINE (A1 perp T2; keys NEVER crossed — def-vyvsn1, 2026-07-03):
*   A1 metric varactor : DIVERGENT C0/S, keyed V_SNAP   (mass sector)
*   T2 dielectric cap  : COLLAPSE  C0*S, keyed V_YIELD  (charge sector + wall)
*
* HOMONYM GUARD: the winding-"2" (n_d=2, topological d-axis winding) is NOT the
*   2x-per-cycle L<->C reactive energy exchange present in every tank. Distinct
*   objects; see the research doc S6.
*
* FIREWALL: element VALUES are datasheet constants (legitimate); the (2,3)
*   SELECTION and <N> the eventual run must produce are firewalled emergence-
*   class outputs (topological/scale-invariant, never tuned to m_e; alpha and
*   Q=1/alpha excluded). This subckt DEFINES the model; it does not select.
* -----------------------------------------------------------------

.subckt AVE_ELECTRON_EQUIVALENT ND NQ A1B
+ params: L0=1n C0=1p V_SNAP=510998.95 V_YLD=43651.85 I_YMAX=124.384
+         KM0=0.3n W_OPEN=1e12 W_MIN=1e-3

* -- A1 MASS SECTOR: metric varactor, DIVERGENT C0/S, keyed V_SNAP --
* Q = C0*V/S(V/V_SNAP): C_eff -> inf as V -> V_SNAP (the mass channel).
* Biased externally at node A1B by the driver (the DC operating point = mass).
* This is the LONGITUDINAL-A1 bond compliance, NOT the T2 permittivity.
C_A1 A1B 0 Q = {C0 * V(A1B) / sqrt(1 - min((V(A1B)/V_SNAP)**2, 0.9999))}
R_A1 A1B 0 1G

* -- d-AXIS "2" TANK (Cosserat inductive; the winding that rings) --
* Saturating inductor with the PARAMETRIC MUTUAL flux term M(V_A1)*i(L_Q):
*   Flux_d = L0*I_d/S(I_d) + M(V_A1)*I_q ,  M(V_A1) = KM0 * V(A1B)/V_SNAP
* The A1 mass bias V(A1B) sets the d<->q energy-trade strength (chosen fork (a),
* nonlinear mutual inductance; genuinely reactive, Ax3-clean; research doc S4).
L_D ND 0 Flux = {L0*i(L_D)/sqrt(1-min((i(L_D)/I_YMAX)**2,0.9999)) + (KM0*V(A1B)/V_SNAP)*i(L_Q)}
C_D ND 0 {C0}

* -- q-AXIS "3" TANK (V-sector capacitive; the EMPTY quadrature, fill target) --
* T2 dielectric COLLAPSE cap C0*S keyed V_YLD (the transverse permittivity that
* rolls off) + saturating inductor carrying the reciprocal mutual flux term.
C_Q NQ 0 Q = {C0 * sqrt(1 - min((V(NQ)/V_YLD)**2,0.9999)) * V(NQ)}
L_Q NQ 0 Flux = {L0*i(L_Q)/sqrt(1-min((i(L_Q)/I_YMAX)**2,0.9999)) + (KM0*V(A1B)/V_SNAP)*i(L_D)}

* -- Gamma=-1 CONFINEMENT WALL on the q-tank --
* Z = Z0*sqrt(S(V/V_YLD)) -> 0 as S -> 0 at V_YLD  =>  Gamma -> -1 (the SHORT,
* corrected sign; NOT the eps-load Gamma -> +1 OPEN). Reflective termination:
* R_WALL = W_OPEN*S + W_MIN -> W_MIN (short) at yield, W_OPEN (open) cold.
* FLAG (research doc S5): a resistive short is DISSIPATIVE; the lossless reactive
* short (Z->0 via a diverging reactance) is the Ax3-faithful 2b-sim refinement.
R_WALL NQ 0 R = {W_OPEN * sqrt(1 - min((V(NQ)/V_YLD)**2,0.9999)) + W_MIN}

.ends AVE_ELECTRON_EQUIVALENT


* =====================================================
* END OF AVE ELECTRON EQUIVALENT CIRCUIT LIBRARY (DESIGN ARTIFACT)
* =====================================================
