* SPICE PHASE-1 rung 2 — Ax4 kernel at one operating point
* V = 459899.0549965478 V ; v_key = 510998.9499961642 V ; S = sqrt(1 - (V/v_key)^2)
V1 A 0 DC 459899.0549965478
B_S  N_S 0 V = {sqrt(1 - min((V(A)/510998.9499961642)**2, 0.9999))}
B_I  N_I 0 V = {1 / sqrt(1 - min((V(A)/510998.9499961642)**2, 0.9999))}
R_S N_S 0 1e12
R_I N_I 0 1e12
R_A A 0 1e15
.control
op
print v(N_S) v(N_I)
.endc
.end
